US09238639B2
F) 6-((2,4-Dichlorobenzyl)oxy)-3-sulfanyl-1-benzothiophene-2-carboxamide
To a mixture of 3-chloro-6-((2,4-dichlorobenzyl)oxy)-1-benzothiophene-2-carboxamide (193.6 mg) in DMF (dry) (2.5 mL) were added DBU (0.225 mL) and thioacetamide (113 mg). The mixture was stirred at 80° C. for 5.5 h. After cooling, the mixture was diluted with 1N HCl and extracted with EtOAc. The combined organic layer was washed successively with water and brine, dried over MgSO4, and concentrated in vacuo. The precipitate was washed with hexane and THF to give the title compound (41.6 mg).

reactant | 3-chloro-6-((2,4-dichlorobenzyl)oxy)-1-benzothiophene-2-carboxamide | 193.6 mg | ClC1=C(SC2=C1C=CC(=C2)OCC2=C(C=C(C=C2)Cl)Cl)C(=O)N | C16H10Cl3NO2S
reactant | DBU | 0.225 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | thioacetamide | 113 mg | C(C)(=S)N | C2H5NS
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | HCl | 1N | Cl | ClH
product | 6-((2,4-Dichlorobenzyl)oxy)-3-sulfanyl-1-benzothiophene-2-carboxamide | 41.6 mg | ClC1=C(COC2=CC3=C(C(=C(S3)C(=O)N)S)C=C2)C=CC(=C1)Cl | C16H11Cl2NO2S2
